US07842696B2
DIPEA (152 mg, 0.66 mmol) was added to a stirred solution of biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt (116 mg, 0.26 mmol) in DMF (1 mL). HOBT (36 mg, 0.26 mmol) and EDCI.HCl (50 mg, 0.26 mmol) were then added. After 2 minutes 2-methylbenzoic acid (30 mg, 0.22 mmol) was added and the resulting mixture was stirred overnight. The reaction mixture was diluted with cold water. The product was extracted with ethyl acetate and the ethyl acetate layer was washed with NaHCO3 solution, saturated brine solution, dried over sodium sulphate and concentrated under reduced pressure. The residue was washed with diethyl ether to afford 62 mg (72.9% yield) of biphenyl-4-carboxylicacid {2-[4-(2-methyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide as a pale yellow solid. LC-MS purity: 94.42%, HPLC Purity: 92.84%. 1H NMR: (DMSO) δ 8.7-8.6 (bs, 1H), 8.0 (d, 2H) 7.8 (m, 4H), 7.6-7.2 (m, 7H), 4.1-4.3 (dd, 2H), 3.8-3.4 (m, 6H), 3.2 (m, 2H), 2.2 (s, 3H).

reactant | DIPEA | 0.66 mmol, 152 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt | 0.26 mmol, 116 mg | OC(=O)C(F)(F)F.O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1
reactant | HOBT | 0.26 mmol, 36 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.26 mmol, 50 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-methylbenzoic acid | 0.22 mmol, 30 mg | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylicacid {2-[4-(2-methyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 62 mg, 72.9% yield | CC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=CC=C1 | C27H27N3O3
